US07834019B2
1) Production of ethyl 4-hydrazino-2-(methylthio)pyrimidine-5-carboxylate
9.71 g of hydrazine monohydrate was dissolved in 200 mL of ethanol, and cooled to 0° C. To this was added a solution prepared by dissolving 15.0 g of ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate in 200 mL of ethanol, and stirred for 1 hour. The precipitated solid was taken out through filtration, washed with distilled water, and dried to obtain 9.66 g of the entitled compound as a white solid.

reactant | hydrazine monohydrate | 9.71 g | O.NN
reactant | ethyl 4-chloro-2-(methylthio)pyrimidine-5-carboxylate | 15.0 g | ClC1=NC(=NC=C1C(=O)OCC)SC | C8H9ClN2O2S
solvent | ethanol | 200 mL | C(C)O | C2H6O
solvent | ethanol | 200 mL | C(C)O | C2H6O
product | ethyl 4-hydrazino-2-(methylthio)pyrimidine-5-carboxylate | 9.66 g | N(N)C1=NC(=NC=C1C(=O)OCC)SC | C8H12N4O2S
